US07037909B2
3-(4-Fluoro-benzyl)-5,8-dimethyl-9H-1,2,3a,4,9,10-hexaaza-cyclopenta[b]fluorene
According to the general cyclization procedure (for Example 27), 0.60 mmol of 4,7-dimethyl-1H-indole-2,3-dione (105 mg) and 0.70 mmol of (4-fluoro-benzyl)-[1,2,4]triazole-3,4-diamine (145 mg) in 2 mL of ethylene glycol was stirred at 125° C. overnight (18 hr). The mixture was cooled to room temperature, diluted with water (10 mL), stirred for 15 min. The precipitated product was collected by filtration, washed with MeOH+water 1:1. Dried on high vacuum. The crude product (187 mg) was suspended in anhydrous ethanol (6 mL), heated to reflux, sonicated while hot, allowed to cool overnight, filtered, washed with ice-cold methanol, filtered and dried on high vacuum.

reactant | 4,7-dimethyl-1H-indole-2,3-dione | 0.60 mmol, 105 mg | CC1=C2C(C(NC2=C(C=C1)C)=O)=O | C10H9NO2
reactant | (4-fluoro-benzyl)-[1,2,4]triazole-3,4-diamine | 0.70 mmol, 145 mg | FC1=CC=C(CC=2N(C(=NN2)N)N)C=C1 | C9H10FN5
solvent | ethylene glycol | 2 mL | C(CO)O | C2H6O2
solvent | water | 10 mL | O | H2O
product | 3-(4-Fluoro-benzyl)-5,8-dimethyl-9H-1,2,3a,4,9,10-hexaaza-cyclopenta[b]fluorene | FC1=CC=C(CC2=NN=C3N=C4NC5=C(C=CC(=C5C4=NN32)C)C)C=C1 | C19H15FN6
